US04387238
Following the procedure of Example 34, monoethyl potassium epoxysuccinate (1.0 g) was successively treated with oxalyl chloride (0.75 g) and diethylamine (0.74 g) to give 0.68 g of ethyl N,N-diethyl-2,3-epoxysuccinamate (Compound No. 57) as colorless oil.

reactant | monoethyl potassium epoxysuccinate | 1.0 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethylamine | 0.74 g | C(C)NCC | C4H11N
product | ethyl N,N-diethyl-2,3-epoxysuccinamate | 0.68 g | C(C)N(C(C1C(C(=O)OCC)O1)=O)CC | C10H17NO4
